US04689339
1-(3,5-Dimethyl-inden-2-yl)ethanone is prepared by the same procedure as cis-1-(2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone in Example 4b. A mixture of dry ether and tetrahydrofuran is used as solvent. Yield 84%.

reactant | cis-1-(2,3-dihydro-1-methyl-1H-inden-2-yl)ethanone | C[C@H]1[C@H](CC2=CC=CC=C12)C(C)=O | C12H14O
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3,5-Dimethyl-inden-2-yl)ethanone | Yield 84% | CC1=C(CC2=CC=C(C=C12)C)C(C)=O | C13H14O
